US05604237
1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[3-(3-nitrophenyl)-1-oxo-2-propenyl]isoquinoline
A mixture of 3-nitrocinnamic acid (10 g) and 1-hydroxybenzotriazole (8.2 g) in DMF (100 ml) was stirred at room temperature for 10 min. 1,2,3,4-Tetrahydro-6,7-dimethoxy-isoquinoline (10 g) was then added, followed by dicyclohexylcarbodiimide (10.6 g) and the mixture was stirred at 50° for 48 h and then filtered. The filtrate was concentrated in vacuo, treated with dilute sodium hydroxide and extracted with dichloromethane. The dried organic extract was evaporated and purified by column chromatography eluting with dichloromethane/methanol (97:3) to give the title compound (7.8 g). NMR includes a signal at d 3.85 (6H,s,OCH3).

reactant | 3-nitrocinnamic acid | 10 g | [N+](=O)([O-])C=1C=C(C=CC(=O)O)C=CC1 | C9H7NO4
reactant | 1-hydroxybenzotriazole | 8.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,2,3,4-Tetrahydro-6,7-dimethoxy-isoquinoline | 10 g | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
reactant | dicyclohexylcarbodiimide | 10.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[3-(3-nitrophenyl)-1-oxo-2-propenyl]isoquinoline | 7.8 g | COC=1C=C2CCN(CC2=CC1OC)C(C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C20H20N2O5
